* Version 2.0 Copyright © Linear Technology Corp. 10/19/04. All rights reserved.
.SUBCKT LF412 3 2 7 4 6 ;(+IN -IN V+ V- OUT)
* INPUT
VCM2 40 4 2
RD1 40 80 964.58
RD2 40 90 964.58
J1 80 102 12 JM1
J2 90 103 12 JM2
CIN 2 3 4e-12
RG1 2 102 2
RG2 3 103 2
** CM CLAMP
* DCM1 107 103 DM4
* DCM2 105 107 DM4
* VCMC 105 4 4.0E+00
* ECMP 106 4 103 4 1
* RCMP 107 106 1E+04
* DCM3 109 102 DM4
* DCM4 105 109 DM4
* ECMN 108 4 102 4 1
* RCMN 109 108 1E+04
** END CM CLAMP
C1 80 90 1.5e-11
ISS 7 12 0.00052
GOSIT 7 12 90 80 0.00026
* INTERMEDIATE
GCM 0 8 12 0 1.0367e-8
GA 8 0 80 90 0.0010367
R2 8 0 100000
C2 1 8 3e-11
GB 1 0 8 0 24.474
RO2 1 0 99
* OUTPUT
RSO 1 6 1
ECL 18 0 1 6 20.774
GCL 0 8 20 0 1
RCL 20 0 1000
D1 18 20 DM1
D2 20 18 DM1
*
D3A 131 70 DM3
D3B 13 131 DM3
GPL 0 8 70 7 1
VC 13 6 3.1575
RPLA 7 70 10000
RPLB 7 131 100000
D4A 60 141 DM3
D4B 141 14 DM3
GNL 0 8 60 4 1
VE 6 14 3.1575
RNLA 60 4 10000
RNLB 141 4 100000
*
IP 7 4 0.00138
DSUB 4 7 DM2
* MODELS
.MODEL JM1 PJF(IS=2.75e-11 BETA=0.0010335 VTO=-1)
.MODEL JM2 PJF(IS=1.25e-11 BETA=0.0010335 VTO=-0.9995)
.MODEL DM1 D(IS=1e-15)
.MODEL DM2 D(IS=8e-16 BV=43.2)
.MODEL DM3 D(IS=1e-16)
.MODEL DM4 D(IS=1e-9)
.ENDS LF412

